US05545755
(1,2,3,4-Tetrahydro-2-oxonaphthalene-8-yl)(2-pyr-rolyl) ketone (B-2, Chart B)
Pyrrole (3.17 ml) was dissolved in toluene (40 ml) and cooled to 0° while ethylmagnesium bromide (15.2 ml of a 3M solution in ether) was added. This solution was allowed to warm to 25° and stirred for 30 minutes. A solution of methyl 1,2,3,4-tetrahydrospiro-2-[2-(1,3-dioxolane)]naphthalene-8-yl-carboxylate (5.15 g, 20.8 mmol) dissolved in toluene (20 ml) was added and the solution refluxed for 24 hours. The solution was cooled and quenched by the addition of saturated aqueous ammonium chloride. Ether (100 ml) was added and the solution extracted. The organic layer was washed with water (2×100 ml), saturated aqueous sodium bicarbonate (50 ml) and brine (50 ml). Drying over anhydrous sodium sulfate and solvent removal in vacuo afforded a dark oil. This was placed in a solution of acetic acid/THF/water (3:1:1) and heated to 50° for five hours. After cooling, the solvent was removed in vacuo and the residue placed on a flash silica gel column (3 cm×40 cm) and eluted with ethyl acetate/hexane (40:60) (added methylene chloride to dissolve crystallized product off the column. Solvent removal afforded 3.7 g of the title compound (74% yield) as light yellow needles (m.p. 174° C.).

reactant | Pyrrole | 3.17 ml | N1C=CC=C1 | C4H5N
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | acetic acid THF water | C(C)(=O)O.C1CCOC1.O
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | (1,2,3,4-Tetrahydro-2-oxonaphthalene-8-yl)(2-pyr-rolyl) ketone | 3.7 g, 74% yield | O=C1CC2=C(C=CC=C2CC1)C(=O)C=1NC=CC1 | C15H13NO2
